US04090020
Preparation of 4'-bromo-3-hydroxy-2-methyl-2H-thieno[ 2,3-e] 1,2-thiazine-4-carboxanilide 1,1-dioxide
3.1 G. of 3,4-dihydro-2-methyl-3-oxo-2H-thieno[ 2,3-e] 1,2-thiazine 1,1-dioxide are dissolved in 31 ml. of absolute dimethylsulfoxide under an atmosphere of nitrogen. 1.44 G. of freshly distilled triethylamine and 2.83 g. of 4-bromophenyl isocyanate are added to the solution and the mixture is then stirred for 24 hours at room temperature. This mixture is then poured into 225 ml. of 3-N hydrochloric acid and the precipitate which separates out is filtered on a sinter filter, washed three times with 20 ml. of distilled water each time and dried as much as possible. The precipitate is dissolved in 250 ml. of methylene chloride, dried over sodium sulfate, stirred with activated charcoal and filtered. The organic phase is shaken out four times with 250 ml. of saturated sodium bicarbonate solution each time and the aqueous phase is shaken again each time with a little methylene chloride. The combined aqueous phases are rendered strongly acid with concentrated hydrochloric acid. The product which separates out is extracted three times with 250 ml. of methylene chloride each time. The combined organic phases are dried over sodium sulfate, stirred with activated charcoal, filtered and the solvent is removed by distillation. The crystalline residue is dissolved in 50 ml. of chloroform. While boiling, activated charcoal is added and the mixture is filtered hot. The product is made to crystallize by scratching. The crystals are removed by filtration, digested with a little cold chloroform, and 4'-bromo-3-hydroxy-2-methyl-2N-thieno[[2,3-e] 1,2-thiazine-4-carboxanilide 1,1-dioxide, melting point 178° C. to 179° C. (decomposition), is obtained.

reactant | 3,4-dihydro-2-methyl-3-oxo-2H-thieno[ 2,3-e] 1,2-thiazine 1,1-dioxide | CN1S(C2=C(CC1=O)SC=C2)(=O)=O | C7H7NO3S2
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4-bromophenyl isocyanate | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4'-bromo-3-hydroxy-2-methyl-2H-thieno[ 2,3-e] 1,2-thiazine-4-carboxanilide 1,1-dioxide | BrC1=CC=C(NC(=O)C2=C(N(S(C3=C2SC=C3)(=O)=O)C)O)C=C1 | C14H11BrN2O4S2
